US07893056B2
[(2R)-3-(2-{2-Chloro-5-fluoro-6-[methyl(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide was dissolved in acetic acid (8 mL) and water (2 mL). The reaction mixture was left to stir 2 days. The volatiles were evaporated, and the resulting residue was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[methyl(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide as a beige solid (0.3469 g). LCMS: (M+H)+=486.1.

reactant | [(2R)-3-(2-{2-Chloro-5-fluoro-6-[methyl(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N(CC=1SC=CN1)C | C24H33ClFN7O4S
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[methyl(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.3469 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N(CC=1SC=CN1)C | C19H25ClFN7O3S
